US09227951B2
To a solution of methyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylic acid (45.0 g, 0.29 mol) in toluene (500 mL) at reflux condition was added 1,1-di-tert-butoxy-N,N-dimethylmethanamine (300 mL, 0.83 mol) dropwise. The mixture was then refluxed overnight and the solvent was then evaporated. The residue was purified by flash column chromatography (petroleum ether: EtOAc, 5:1) to give tert-butyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate (27.0 g, 65%). 1H NMR (CDCl3, 400 MHz) δ 9.50 (s, 1H), 7.30 (s, 1H), 7.20 (s, 1H), 3.89 (s, 3H), 1.48 (s, 9H).

reactant | methyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylic acid | 0.29 mol, 45.0 g | CC=1N(C(=CC1C(=O)O)C=O)C | C8H9NO3
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 0.83 mol, 300 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 5-formyl-1-methyl-1H-pyrrole-3-carboxylate | 27.0 g, 65% | C(=O)C1=CC(=CN1C)C(=O)OC(C)(C)C | C11H15NO3
